US08669249B2
Methyl 2-(4-formyl-3-methyl-2-nitrophenoxy)propanoate (323)
Using 4-hydroxy-2-methyl-3-nitrobenzaldehyde as the phenol and methyl-2-bromopropanoate as the alkylating agent in the general procedure for alkylation of substituted-2-nitrophenols gives the title compound as a white solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.51 (d, J=6.82 Hz, 3 H) 2.50 (s, 3H) 3.69 (s, 3H) 5.40 (q, J=6.82 Hz, 1H) 7.29 (d, J=9.09 Hz, 1H) 8.00 (d, J=8.84 Hz, 1H) 10.12 (s, 1H). ESI-MS: m/z 268.2 (M+H)+.

reactant | 4-hydroxy-2-methyl-3-nitrobenzaldehyde | OC1=C(C(=C(C=O)C=C1)C)[N+](=O)[O-] | C8H7NO4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | methyl-2-bromopropanoate | COC(C(C)Br)=O | C4H7BrO2
product | Methyl 2-(4-formyl-3-methyl-2-nitrophenoxy)propanoate | C(=O)C1=C(C(=C(OC(C(=O)OC)C)C=C1)[N+](=O)[O-])C | C12H13NO6
